US07531532B2
Example 194) 1-[1-(2-Dimethylaminoethyl)piperidin-4-yl]-3-[4-(4-{3-[2-(4-fluorophenyl)acetyl]thioureido}phenoxy)pyridin-2-yl]-1-methylurea
After adding (1S)-(+)-10-camphorsulfonic acid (119 mg) to a solution of 3-[4-(4-aminophenoxy)pyridin-2-yl]-1-[1-(2-dimethylaminoethyl)piperidin-4-yl]-1-methylurea (121 mg) in ethanol (2.0 ml), the mixture was stirred for 10 minutes at room temperature. Next, 2-(4-fluorophenyl)acetyl isothiocyanate (2.34 ml, 0.25 M solution in toluene) was added thereto and the mixture was stirred at room temperature for 50 minutes. The reaction mixture was then partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate. The organic layer was dried over anhydrous sodium sulfate and concentrated. The residue was purified by silica gel column chromatography (Fuji Silysia NH, ethyl acetate, then ethyl acetate:methanol=20:1 to 10:1). Fractions containing the target compound were combined and concentrated. The residue was purified by LC-MS (eluent; acetonitrile-water-trifluoroacetic acid system). Fractions containing the target compound were concentrated, and saturated aqueous sodium hydrogencarbonate was added to the resultant residue. The mixture was extracted with ethyl acetate, and the organic layer was washed with brine and dried over anhydrous sodium sulfate. It was then concentrated to provide the title compound (26.3 mg, 14.8%) as white powder.

reactant | (1S)-(+)-10-camphorsulfonic acid | 119 mg | [C@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | 3-[4-(4-aminophenoxy)pyridin-2-yl]-1-[1-(2-dimethylaminoethyl)piperidin-4-yl]-1-methylurea | 121 mg | NC1=CC=C(OC2=CC(=NC=C2)NC(N(C)C2CCN(CC2)CCN(C)C)=O)C=C1 | C22H32N6O2
reactant | 2-(4-fluorophenyl)acetyl isothiocyanate | 0.25 M, 2.34 ml | FC1=CC=C(C=C1)CC(=O)N=C=S | C9H6FNOS
solvent | ethanol | 2.0 ml | C(C)O | C2H6O
product | 1-[1-(2-Dimethylaminoethyl)piperidin-4-yl]-3-[4-(4-{3-[2-(4-fluorophenyl)acetyl]thioureido}phenoxy)pyridin-2-yl]-1-methylurea | 26.3 mg, 14.8% | CN(CCN1CCC(CC1)N(C(=O)NC1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=S)NC(CC1=CC=C(C=C1)F)=O)C)C | C31H38FN7O3S
